US04064125
A. N,N-Dimethyl-3-[2-(3-phenyl-1-propenyl)phenoxy]propanamine
A solution of 20.0 g of 2-(3-dimethylaminopropoxy)-benzaldehyde and 10.3 g of benzylamine in 100 ml of toluene is heated at reflux for 1 hour in a procedure described for Example 1. The yield of product is 22.1 g, boiling point 175°-178° C/0.05 mm of Hg.

reactant | 2-(3-dimethylaminopropoxy)-benzaldehyde | 20.0 g | CN(CCCOC1=C(C=O)C=CC=C1)C | C12H17NO2
reactant | benzylamine | 10.3 g | C(C1=CC=CC=C1)N | C7H9N
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | N,N-Dimethyl-3-[2-(3-phenyl-1-propenyl)phenoxy]propanamine | CN(CCCOC1=C(C=CC=C1)C=CCC1=CC=CC=C1)C | C20H25NO
